US08357693B2
To tert-butyl 5-(2-(3-((S)-1-methylpyrrolidine-2-carboxamido)phenyl)-quinazolin-4-ylamino)-1H-indazole-1-carboxylate (22 mmol) was added a solution of 1:1 TFA:CH2Cl2 (2 mL) and stirred at RT for 2 h. The reaction mixture was concentrated in vacuo and the crude product was purified by prep HPLC (method 10-35—90 mins) to afford (2S)—N-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenyl)-1-methylpyrrolidine-2-carboxamide. (25 mg, 25%)

reactant | tert-butyl 5-(2-(3-((S)-1-methylpyrrolidine-2-carboxamido)phenyl)-quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 22 mmol | CN1[C@@H](CCC1)C(=O)NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C32H33N7O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (2S)—N-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenyl)-1-methylpyrrolidine-2-carboxamide | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(C=CC1)NC(=O)[C@H]1N(CCC1)C | C27H25N7O
